US07173031B2
E) 3-Fluoro-4-(2-methyl-1H-pyrrolo[2,3-b]pyridin-4-yloxy)benzenamine
A mixture of 4-(2-fluoro-4-nitrophenoxy)-2-methyl-1H-pyrrolo[2,3-b]pyridine (43 mg, 0.15 mmol), zinc dust (50 mg, 0.75 mmol) and ammonium chloride (50 mg) in THF/Methanol (1/2, 0.6 mL) was stirred at room temperature for 1 h, filtered and concentrated in vacuo to afford the desired product (35 mg, 90%), which was sufficiently pure to use in the subsequent reaction. 1H NMR (DMSO-d6) δ 11.71 (s, 1H), 8.04 (d, 1H, J=5.5 Hz), 7.10 (t, 1H, J=8.4 Hz), 6.64 (dd, 1H, J=10.4, 2.6 Hz), 6.51 (m, 1H), 6.35 (d, 1H, J=5.5 Hz), 5.95 (s, 1H), 5.50 (s 2H), 2.41 (s, 3H); MS(ESI+) m/z 258 (M+H)+.

reactant | 4-(2-fluoro-4-nitrophenoxy)-2-methyl-1H-pyrrolo[2,3-b]pyridine | 0.15 mmol, 43 mg | FC1=C(OC2=C3C(=NC=C2)NC(=C3)C)C=CC(=C1)[N+](=O)[O-] | C14H10FN3O3
reactant | ammonium chloride | 50 mg | [Cl-].[NH4+]
solvent | THF Methanol | 0.6 mL | C1CCOC1.CO
catalyst | zinc | 0.75 mmol, 50 mg | [Zn] | Zn
product | 3-Fluoro-4-(2-methyl-1H-pyrrolo[2,3-b]pyridin-4-yloxy)benzenamine | 35 mg, 90% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)NC(=C2)C)N | C14H12FN3O
